US08304419B2
Step C: 2-azido-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide
EDC (0.331 g, 1.726 mmol) and HOBT (0.233 g, 1.726 mmol) were added to a solution of 3-{[3-(aminomethyl)-6-bromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.558 g, 1.569 mmol) and 2-azido-4-chloro-1H-imidazole-5-carboxylic acid (0.294 g, 1.569 mmol) in DMF (7 mL). The mixture was stirred at RT overnight. The reaction mixture was diluted with EtOAc and washed with water and brine and the organic layer was dried over sodium sulfate and concentrated to give the crude title compound (0.850 g) as a light yellow solid. This crude product was taken on to the next step without further purification.

reactant | EDC | 1.726 mmol, 0.331 g
reactant | HOBT | 1.726 mmol, 0.233 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-{[3-(aminomethyl)-6-bromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 1.569 mmol, 0.558 g | NCC=1C(=C(C(=CC1)Br)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9BrClFN2O
reactant | 2-azido-4-chloro-1H-imidazole-5-carboxylic acid | 1.569 mmol, 0.294 g | N(=[N+]=[N-])C=1NC(=C(N1)Cl)C(=O)O | C4H2ClN5O2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-azido-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 0.850 g | N(=[N+]=[N-])C=1NC(=C(N1)Cl)C(=O)NCC1=C(C(=C(C=C1)Br)OC1=CC(=CC(=C1)C#N)Cl)F | C18H9BrCl2FN7O2
